US06020329
(RS)-1-Acetoxyethyl (6R,7R)-7-[2-(2-Aminothiazol-4-yl)-2-(Z)-methoxyiminoacetamido]-3-[(S)-tetrahydrofuran-2-yl]ceph-3-em-4-carboxylate.
A solution of (RS)-1-acetoxyethylbromide (267mg) in 1-methyl-2-pyrrolidinone (2ml) was added dropwise, over 1 hour, to an ice cold mixture of sodium (6R,7R)-7-[2-(2-aminothiazol-4-yl)-2-(Z)-methoxyiminoacetamido]-3-[(S)-tetrahydrofuran-2-yl]ceph-3-em-4-carboxylate (190mg) and potassium carbonate (110mg) in 1-methyl-2-pyrrolidinone (1ml). After 15 minutes the mixture was diluted with ethyl acetate, washed with water, brine, dried (MgSO4), concentrated and flash chromatographed on silica gel eluting with 50,70,80 and 90% ethyl acetate in hexane to give the title compound (172mg); vmax (CHCl3) 3019, 2929, 1786, 1683, 1520, 1376 and 1135cm-1 ; δH (CDCl3, 250MHz) 1.45-1.75 (4H,m), 1.90-2.10 (2H,m), 2.09 and 2.10 (together 3H, 2s), 2.30-2.50 (1H,m), 3.36 and 3.65 (2H, ABq, J 18.8Hz), 4.93-5.10 (2H,m), 5.90-6.05 (1H,m), 6.94 and 7.07 (together 1H,q,J 5.8Hz), 7.10 and 7.15 (together 1H, 2s) and 7.60 and 7.67 (together 1H,2d, J 7.4Hz); [Mass spectrum: +ve ion (3-nitrobenzyl alcohol, sodium acetate) MNa+ (562)].

reactant | (RS)-1-acetoxyethylbromide | 267mg | C(C)(=O)OC(C)Br | C4H7BrO2
reactant | sodium (6R,7R)-7-[2-(2-aminothiazol-4-yl)-2-(Z)-methoxyiminoacetamido]-3-[(S)-tetrahydrofuran-2-yl]ceph-3-em-4-carboxylate | 190mg | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)[C@H]2OCCC2)C(=O)[O-])C1=O)=N/OC.[Na+]
reactant | potassium carbonate | 110mg | C([O-])([O-])=O.[K+].[K+]
solvent | 1-methyl-2-pyrrolidinone | 2ml | CN1C(CCC1)=O | C5H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (RS)-1-Acetoxyethyl (6R,7R)-7-[2-(2-Aminothiazol-4-yl)-2-(Z)-methoxyiminoacetamido]-3-[(S)-tetrahydrofuran-2-yl]ceph-3-em-4-carboxylate | 172mg | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)[C@H]2OCCC2)C(=O)OC(C)OC(C)=O)C1=O)=N/OC | C21H25N5O8S2
